*$
*//-----------------------------------------------------------------------//
*//   Part		: ELHU451VSN1C2MA60S
*//   Date		: 2024/05/28
*//   Version	: 1.0 
*//   Comment	: 
*//   Simulator	: P-Spice 
*//   Temperature 	: 20deg-C/-40deg-C/0deg-C/60deg-C/105deg-C
*//   Model	: RC-ladder 9 Elements Model
*//   Copyright (C) 2024 Nippon Chemi-con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT ELHU451VSN1C2MA60S_20deg-C 1 2
C1 4 2 9.95e-04
C2 5 2 1.43e-04
C3 6 2 1.00e-10
C4 7 2 5.62e-05
R1 3 4 9.76e-02
R2 4 5 3.75e-01
R3 5 6 1.27e+01
R4 6 7 1.28e+01
L1 1 3 6.00e-09
.ENDS

.SUBCKT ELHU451VSN1C2MA60S_-40deg-C 1 2
C1 4 2 1.70e-06
C2 5 2 6.81e-06
C3 6 2 9.50e-05
C4 7 2 8.18e-04
R1 3 4 4.73e-01
R2 4 5 7.96e+00
R3 5 6 9.80e+00
R4 6 7 4.79e+00
L1 1 3 6.00e-09
.ENDS

.SUBCKT ELHU451VSN1C2MA60S_0deg-C 1 2
C1 4 2 2.38e-05
C2 5 2 1.05e-03
C3 6 2 1.04e-04
C4 7 2 2.14e-10
R1 3 4 1.80e-01
R2 4 5 1.45e-01
R3 5 6 1.38e+01
R4 6 7 2.80e+01
L1 1 3 6.00e-09
.ENDS

.SUBCKT ELHU451VSN1C2MA60S_60deg-C 1 2
C1 4 2 9.45e-04
C2 5 2 2.51e-04
C3 6 2 1.00e-10
C4 7 2 3.96e-05
R1 3 4 3.22e-02
R2 4 5 1.00e-07
R3 5 6 5.27e+01
R4 6 7 5.31e+01
L1 1 3 6.00e-09
.ENDS

.SUBCKT ELHU451VSN1C2MA60S_105deg-C 1 2
C1 4 2 1.22e-03
C2 5 2 1.00e-10
C3 6 2 1.00e-10
C4 7 2 4.89e-05
R1 3 4 2.38e-02
R2 4 5 2.35e+01
R3 5 6 2.40e+01
R4 6 7 2.44e+01
L1 1 3 6.00e-09
.ENDS

*$