*$
*//-----------------------------------------------------------------------//
*//   Part        : ESMH500VSN103MA35S
*//   Date        : 2023/04/07
*//   Temperature : 20deg.C/-40deg.C/-25deg.C/85deg.C/105deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2023 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT ESMH500VSN103MA35S_20deg-C 1 2

C1 4 2 8.74e-03
C2 5 2 5.68e-04
C3 6 2 1.52e-04
R1 3 4 1.22e-02
R2 4 5 2.66e-01
R3 5 6 9.31e+00
L1 1 3 1.60e-08

.ENDS

.SUBCKT ESMH500VSN103MA35S_-40deg-C 1 2

C1 4 2 1.24e-04
C2 5 2 2.20e-03
C3 6 2 5.06e-03
R1 3 4 4.18e-01
R2 4 5 1.06e-01
R3 5 6 7.75e-02
L1 1 3 1.60e-08

.ENDS

.SUBCKT ESMH500VSN103MA35S_-25deg-C 1 2

C1 4 2 4.38e-03
C2 5 2 3.85e-03
C3 6 2 6.95e-04
R1 3 4 1.16e-01
R2 4 5 4.16e-02
R3 5 6 9.33e-01
L1 1 3 1.60e-08

.ENDS

.SUBCKT ESMH500VSN103MA35S_85deg-C 1 2

C1 4 2 7.43e-03
C2 5 2 2.24e-03
C3 6 2 2.77e-04
R1 3 4 6.51e-03
R2 4 5 3.42e-02
R3 5 6 3.90e+00
L1 1 3 1.60e-08

.ENDS

.SUBCKT ESMH500VSN103MA35S_105deg-C 1 2

C1 4 2 7.44e-03
C2 5 2 2.28e-03
C3 6 2 2.97e-04
R1 3 4 6.47e-03
R2 4 5 3.57e-02
R3 5 6 3.69e+00
L1 1 3 1.60e-08

.ENDS
*$