*$
*//-----------------------------------------------------------------------//
*//   Part        : EGPA350ELL102MK25S
*//   Date        : 2023/06/23
*//   Temperature : 20deg.C/-40deg.C/125deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2023 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EGPA350ELL102MK25S_20deg-C 1 2

C1 4 2 8.18e-04
C2 5 2 1.71e-04
C3 6 2 3.62e-05
R1 3 4 2.74e-02
R2 4 5 8.39e-02
R3 5 6 1.19e+01
L1 1 3 8.00e-09

.ENDS

.SUBCKT EGPA350ELL102MK25S_-40deg-C 1 2

C1 4 2 5.88e-05
C2 5 2 4.04e-04
C3 6 2 4.92e-04
R1 3 4 1.15e-01
R2 4 5 2.22e-02
R3 5 6 5.81e-02
L1 1 3 8.00e-09

.ENDS

.SUBCKT EGPA350ELL102MK25S_125deg-C 1 2

C1 4 2 9.31e-04
C2 5 2 1.32e-04
C3 6 2 4.72e-05
R1 3 4 1.46e-02
R2 4 5 2.01e-01
R3 5 6 2.02e+01
L1 1 3 8.00e-09

.ENDS
*$