*$
*//-----------------------------------------------------------------------//
*//   Part No.    : EGPA350ELL681MK20S
*//   Date        : 2018/02/16 
*//   Update 	  : 2018/06/15 Added SPICE model (-40deg.C/125deg.C)
*//		  : 2018/11/08 Corrected the SUBCKT
*//   Temperature : 20deg.C/-40deg.C/125deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2018 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EGPA350ELL681MK20S_20deg-C 1 2

C1 4 2 5.64e-04
C2 5 2 1.15e-04
C3 6 2 4.52e-05
R1 3 4 4.08e-02
R2 4 5 1.19e-01
R3 5 6 2.08e+00
L1 1 3 6.70e-09

.ENDS

.SUBCKT EGPA350ELL681MK20S_-40deg-C 1 2

C1 4 2 2.46e-05
C2 5 2 1.82e-04
C3 6 2 4.54e-04
R1 3 4 1.81e-01
R2 4 5 3.28e-02
R3 5 6 6.83e-02
L1 1 3 6.70e-09

.ENDS

.SUBCKT EGPA350ELL681MK20S_125deg-C 1 2

C1 4 2 7.27e-04
C2 5 2 4.57e-05
C3 6 2 2.97e-05
R1 3 4 1.65e-02
R2 4 5 1.01e+00
R3 5 6 3.58e+01
L1 1 3 6.70e-09

.ENDS
*$
