*$
*//-----------------------------------------------------------------------//
*//   Part      : EGPA800ELL471ML25S
*//   Date      : 2021/02/10 (U21C010044)
*//   Temperature : -40deg.C/20deg.C/125deg.C
*//   Model     : RC-ladder 7 Element Model
*//   Copyright (C) 2021 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EGPA800ELL471ML25S_-40deg-C 1 2

C1 4 2 7.05e-06
C2 5 2 3.69e-04
C3 6 2 2.84e-05
R1 3 4 2.28e-01
R2 4 5 1.59e-01
R3 5 6 5.44e-02
L1 1 3 1.20e-08

.ENDS

.SUBCKT EGPA800ELL471ML25S_20deg-C 1 2

C1 4 2 1.31e-04
C2 5 2 2.86e-04
C3 6 2 1.13e-05
R1 3 4 3.87e-02
R2 4 5 1.45e-02
R3 5 6 9.01e+01
L1 1 3 1.20e-08

.ENDS

.SUBCKT EGPA800ELL471ML25S_125deg-C 1 2

C1 4 2 4.26e-04
C2 5 2 2.00e-05
C3 6 2 1.80e-05
R1 3 4 1.56e-02
R2 4 5 3.38e-01
R3 5 6 2.59e+01
L1 1 3 1.20e-08

.ENDS
*$
