*$
*//-----------------------------------------------------------------------//
*//   Part No.    : EGPA250ELL272MM20S
*//   Date        : 2018/02/16 
*//   Update 	  : 2018/06/15 Added SPICE model (-40deg.C/125deg.C)
*//		  : 2018/11/08 Corrected the SUBCKT
*//   Temperature : 20deg.C/-40deg.C/125deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2018 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EGPA250ELL272MM20S_20deg-C 1 2

C1 4 2 1.97e-03
C2 5 2 4.67e-04
C3 6 2 1.60e-04
R1 3 4 3.04e-02
R2 4 5 6.23e-02
R3 5 6 6.58e-01
L1 1 3 7.50e-09

.ENDS

.SUBCKT EGPA250ELL272MM20S_-40deg-C 1 2

C1 4 2 1.49e-04
C2 5 2 6.39e-04
C3 6 2 1.58e-03
R1 3 4 1.23e-01
R2 4 5 1.84e-02
R3 5 6 3.47e-02
L1 1 3 7.50e-09

.ENDS

.SUBCKT EGPA250ELL272MM20S_125deg-C 1 2

C1 4 2 1.77e-03
C2 5 2 1.00e-03
C3 6 2 8.53e-05
R1 3 4 1.42e-02
R2 4 5 8.07e-02
R3 5 6 4.50e-02
L1 1 3 7.50e-09

.ENDS
*$
