*$
*//-----------------------------------------------------------------------//
*//   Part No.    : EGPA250ELL392MM25S
*//   Date        : 2018/02/16 
*//   Update 	  : 2018/06/15 Added SPICE model (-40deg.C/125deg.C)
*//		  : 2018/11/08 Corrected the SUBCKT
*//   Temperature : 20deg.C/-40deg.C/125deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2018 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EGPA250ELL392MM25S_20deg-C 1 2

C1 4 2 3.01e-03
C2 5 2 4.78e-04
C3 6 2 1.08e-04
R1 3 4 2.04e-02
R2 4 5 7.88e-02
R3 5 6 1.60e+00
L1 1 3 7.60e-09

.ENDS

.SUBCKT EGPA250ELL392MM25S_-40deg-C 1 2

C1 4 2 6.23e-04
C2 5 2 2.24e-03
C3 6 2 5.58e-04
R1 3 4 7.09e-02
R2 4 5 1.96e-02
R3 5 6 1.35e-01
L1 1 3 7.60e-09

.ENDS

.SUBCKT EGPA250ELL392MM25S_125deg-C 1 2

C1 4 2 2.75e-03
C2 5 2 1.01e-03
C3 6 2 1.08e-04
R1 3 4 9.95e-03
R2 4 5 7.56e-02
R3 5 6 3.31e-02
L1 1 3 7.60e-09

.ENDS
*$
