*$
*//-----------------------------------------------------------------------//
*//   Part No.    : EGPA350ELL222MM25S
*//   Date        : 2018/02/16 
*//   Update 	  : 2018/06/15 Added SPICE model (-40deg.C/125deg.C)
*//		  : 2018/11/08 Corrected the SUBCKT
*//   Temperature : 20deg.C/-40deg.C/125deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2018 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EGPA350ELL222MM25S_20deg-C 1 2

C1 4 2 1.80e-03
C2 5 2 1.66e-04
C3 6 2 5.22e-05
R1 3 4 2.00e-02
R2 4 5 1.97e-01
R3 5 6 1.04e+00
L1 1 3 7.60e-09

.ENDS

.SUBCKT EGPA350ELL222MM25S_-40deg-C 1 2

C1 4 2 3.39e-04
C2 5 2 1.32e-03
C3 6 2 2.81e-04
R1 3 4 6.63e-02
R2 4 5 1.58e-02
R3 5 6 2.33e-01
L1 1 3 7.60e-09

.ENDS

.SUBCKT EGPA350ELL222MM25S_125deg-C 1 2

C1 4 2 1.54e-03
C2 5 2 5.48e-04
C3 6 2 7.55e-05
R1 3 4 1.06e-02
R2 4 5 6.38e-02
R3 5 6 1.98e+00
L1 1 3 7.60e-09

.ENDS
*$
