*$
*//-----------------------------------------------------------------------//
*//   Part No.    : EGPA500ELL102MM20S
*//   Date        : 2018/02/16 
*//   Update 	  : 2018/06/15 Added SPICE model (-40deg.C/125deg.C)
*//		  : 2018/11/08 Corrected the SUBCKT
*//   Temperature : 20deg.C/-40deg.C/125deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2018 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EGPA500ELL102MM20S_20deg-C 1 2

C1 4 2 7.52e-04
C2 5 2 1.38e-04
C3 6 2 5.33e-05
R1 3 4 3.48e-02
R2 4 5 1.99e-01
R3 5 6 1.76e+00
L1 1 3 7.50e-09

.ENDS

.SUBCKT EGPA500ELL102MM20S_-40deg-C 1 2

C1 4 2 1.14e-04
C2 5 2 3.24e-04
C3 6 2 4.64e-04
R1 3 4 1.09e-01
R2 4 5 1.98e-02
R3 5 6 5.32e-02
L1 1 3 7.50e-09

.ENDS

.SUBCKT EGPA500ELL102MM20S_125deg-C 1 2

C1 4 2 7.88e-04
C2 5 2 2.12e-04
C3 6 2 3.55e-05
R1 3 4 1.84e-02
R2 4 5 1.72e-01
R3 5 6 2.88e+01
L1 1 3 7.50e-09

.ENDS
*$
