*$
*//-----------------------------------------------------------------------//
*//   Part        : EGPD101ELL161MK20H
*//   Date        : 2023/05/19
*//   Temperature : 20deg.C/-40deg.C/135deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2023 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EGPD101ELL161MK20H_20deg-C 1 2

C1 4 2 1.38e-04
C2 5 2 2.73e-05
C3 6 2 4.51e-06
R1 3 4 6.80e-02
R2 4 5 3.87e-01
R3 5 6 1.94e+02
L1 1 3 8.00e-09

.ENDS

.SUBCKT EGPD101ELL161MK20H_-40deg-C 1 2

C1 4 2 2.01e-05
C2 5 2 1.27e-04
C3 6 2 1.42e-05
R1 3 4 5.08e-01
R2 4 5 3.00e-01
R3 5 6 7.28e+00
L1 1 3 8.00e-09

.ENDS

.SUBCKT EGPD101ELL161MK20H_135deg-C 1 2

C1 4 2 1.51e-04
C2 5 2 2.27e-05
C3 6 2 8.83e-06
R1 3 4 3.03e-02
R2 4 5 4.68e-01
R3 5 6 6.60e+01
L1 1 3 8.00e-09

.ENDS
*$