*$
*//-----------------------------------------------------------------------//
*//   Part        : EGPD800ELL132ML40H
*//   Date        : 2023/03/13
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2023 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EGPD800ELL132ML40H_20deg-C 1 2

C1 4 2 1.03e-03
C2 5 2 1.08e-04
C3 6 2 2.47e-05
R1 3 4 1.64e-02
R2 4 5 1.36e-01
R3 5 6 4.35e+01
L1 1 3 8.00e-09

.ENDS
*$