*$
*//-----------------------------------------------------------------------//
*//   Part        : EGXF251ELL470MJ35S
*//   Date        : 2022/08/10
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2022 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EGXF251ELL470MJ35S_20deg-C 1 2

C1 4 2 1.35e-06
C2 5 2 4.18e-05
C3 6 2 2.44e-06
R1 3 4 1.10e-01
R2 4 5 1.34e-01
R3 5 6 2.76e+02
L1 1 3 1.00e-08

.ENDS
*$