*$
*//-----------------------------------------------------------------------//
*//   Part No.    : EGXF350ELL511MJ16S
*//   Date        : 2020/12/04
*//   Temperature : 20deg.C/-40deg.C/125deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2020 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EGXF350ELL511MJ16S_20deg-C 1 2

C1 4 2 1.19e-04
C2 5 2 2.64e-04
C3 6 2 3.42e-05
R1 3 4 7.08e-02
R2 4 5 2.99e-02
R3 5 6 1.57e+00
L1 1 3 5.40e-09

.ENDS

.SUBCKT EGXF350ELL511MJ16S_-40deg-C 1 2

C1 4 2 1.25e-06
C2 5 2 6.88e-05
C3 6 2 3.12e-04
R1 3 4 7.80e-01
R2 4 5 2.52e-01
R3 5 6 3.80e-01
L1 1 3 5.40e-09

.ENDS

.SUBCKT EGXF350ELL511MJ16S_125deg-C 1 2

C1 4 2 3.91e-04
C2 5 2 4.58e-05
C3 6 2 2.63e-05
R1 3 4 2.25e-02
R2 4 5 9.92e-02
R3 5 6 3.87e+00
L1 1 3 5.40e-09

.ENDS
*$
