*$
*//-----------------------------------------------------------------------//
*//   Part No.    : EGXF630ELL391MK20S
*//   Date        : 2020/12/04
*//   Temperature : 20deg.C/-40deg.C/125deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2020 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EGXF630ELL391MK20S_20deg-C 1 2

C1 4 2 9.15e-05
C2 5 2 2.14e-04
C3 6 2 3.18e-05
R1 3 4 5.66e-02
R2 4 5 1.88e-02
R3 5 6 1.40e+00
L1 1 3 7.20e-09

.ENDS

.SUBCKT EGXF630ELL391MK20S_-40deg-C 1 2

C1 4 2 1.24e-06
C2 5 2 5.81e-05
C3 6 2 2.53e-04
R1 3 4 3.23e-01
R2 4 5 1.38e-01
R3 5 6 2.07e-01
L1 1 3 7.20e-09

.ENDS

.SUBCKT EGXF630ELL391MK20S_125deg-C 1 2

C1 4 2 3.15e-04
C2 5 2 3.37e-05
C3 6 2 8.90e-06
R1 3 4 2.24e-02
R2 4 5 3.33e-01
R3 5 6 1.28e+01
L1 1 3 7.20e-09

.ENDS
*$
