*$
*//-----------------------------------------------------------------------// 
*//   Part No.    : EGXF401ELL470ML25S
*//   Date        : 2022/09/29
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2022 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------// 

.SUBCKT EGXF401ELL470ML25S_20deg-C 1 2

C1 4 2 4.32e-07
C2 5 2 7.57e-06
C3 6 2 3.42e-05
R1 3 4 2.36e-01
R2 4 5 4.50e-01
R3 5 6 2.22e-01
L1 1 3 7.01e-09

.ENDS
*$
