*$
*//-----------------------------------------------------------------------//
*//   Part No.    : EGXF630ELL112ML30S
*//   Date        : 2020/12/04
*//   Temperature : 20deg.C/-40deg.C/125deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2020 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EGXF630ELL112ML30S_20deg-C 1 2

C1 4 2 7.41e-04
C2 5 2 1.68e-04
C3 6 2 5.89e-05
R1 3 4 2.79e-02
R2 4 5 1.14e-01
R3 5 6 1.89e+00
L1 1 3 7.30e-09

.ENDS

.SUBCKT EGXF630ELL112ML30S_-40deg-C 1 2

C1 4 2 4.29e-06
C2 5 2 1.86e-04
C3 6 2 6.97e-04
R1 3 4 1.37e-01
R2 4 5 5.39e-02
R3 5 6 8.21e-02
L1 1 3 7.30e-09

.ENDS

.SUBCKT EGXF630ELL112ML30S_125deg-C 1 2

C1 4 2 8.06e-04
C2 5 2 1.81e-04
C3 6 2 3.20e-05
R1 3 4 1.14e-02
R2 4 5 4.40e-02
R3 5 6 1.47e+00
L1 1 3 7.30e-09

.ENDS
*$
