*$
*//-----------------------------------------------------------------------//
*//   Part No.    : EGXF800ELL112ML40S
*//   Date        : 2020/12/04
*//   Temperature : 20deg.C/-40deg.C/125deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2020 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EGXF800ELL112ML40S_20deg-C 1 2

C1 4 2 5.27e-04
C2 5 2 3.72e-04
C3 6 2 1.04e-04
R1 3 4 1.85e-02
R2 4 5 8.94e-03
R3 5 6 7.96e-01
L1 1 3 7.50e-09

.ENDS

.SUBCKT EGXF800ELL112ML40S_-40deg-C 1 2

C1 4 2 2.49e-05
C2 5 2 2.58e-04
C3 6 2 6.60e-04
R1 3 4 9.28e-02
R2 4 5 2.30e-02
R3 5 6 5.31e-02
L1 1 3 7.50e-09

.ENDS

.SUBCKT EGXF800ELL112ML40S_125deg-C 1 2

C1 4 2 1.01e-03
C2 5 2 1.70e-05
C3 6 2 3.21e-05
R1 3 4 8.53e-03
R2 4 5 7.90e-03
R3 5 6 1.64e+00
L1 1 3 7.50e-09

.ENDS
*$
