*$
*//-----------------------------------------------------------------------//
*//   Part No.    : EGXF800ELL561ML25S
*//   Date        : 2020/12/04
*//   Temperature : 20deg.C/-40deg.C/125deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2020 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EGXF800ELL561ML25S_20deg-C 1 2

C1 4 2 4.41e-04
C2 5 2 4.92e-05
C3 6 2 2.84e-05
R1 3 4 3.24e-02
R2 4 5 2.33e-01
R3 5 6 2.79e+00
L1 1 3 7.20e-09

.ENDS

.SUBCKT EGXF800ELL561ML25S_-40deg-C 1 2

C1 4 2 1.62e-05
C2 5 2 1.09e-04
C3 6 2 3.65e-04
R1 3 4 1.88e-01
R2 4 5 3.63e-02
R3 5 6 9.75e-02
L1 1 3 7.20e-09

.ENDS

.SUBCKT EGXF800ELL561ML25S_125deg-C 1 2

C1 4 2 4.60e-04
C2 5 2 7.29e-05
C3 6 2 1.54e-05
R1 3 4 1.38e-02
R2 4 5 6.34e-02
R3 5 6 3.35e+00
L1 1 3 7.20e-09

.ENDS
*$
