*$
*//-----------------------------------------------------------------------//
*//   Part        : EGXF201ELL131MM20S
*//   Date        : 2022/08/25
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2022 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EGXF201ELL131MM20S_20deg-C 1 2

C1 4 2 6.14e-06
C2 5 2 8.67e-05
C3 6 2 2.74e-05
R1 3 4 1.17e-01
R2 4 5 5.30e-02
R3 5 6 2.91e-03
L1 1 3 8.00e-09

.ENDS
*$