*$
*//-----------------------------------------------------------------------//
*//   Part        : EGXF500ELL332MM40S
*//   Date        : 2023/07/27
*//   Temperature : 20deg.C/-40deg.C/125deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2023 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EGXF500ELL332MM40S_20deg-C 1 2

C1 4 2 2.91e-03
C2 5 2 3.00e-04
C3 6 2 9.08e-05
R1 3 4 1.20e-02
R2 4 5 1.82e-01
R3 5 6 2.13e+00
L1 1 3 8.00e-09

.ENDS

.SUBCKT EGXF500ELL332MM40S_-40deg-C 1 2

C1 4 2 2.38e-03
C2 5 2 5.81e-04
C3 6 2 1.88e-04
R1 3 4 2.86e-02
R2 4 5 8.83e-02
R3 5 6 3.66e+00
L1 1 3 8.00e-09

.ENDS

.SUBCKT EGXF500ELL332MM40S_125deg-C 1 2

C1 4 2 2.29e-03
C2 5 2 1.17e-03
C3 6 2 1.64e-04
R1 3 4 1.00e-02
R2 4 5 4.68e-02
R3 5 6 4.60e+00
L1 1 3 8.00e-09

.ENDS
*$