*$
*//-----------------------------------------------------------------------//
*//   Part No. 	: EKHF451ELL330MJ30S
*//   Date 	: 2024/04/04
*//   Version 	: 1.0
*//   Comment 	: 
*//   Simulator	: P-Spice
*//   Temperature 	: 20deg-C/-40deg-C/105deg-C
*//   Model       	: RC-ladder 9 Elements Model
*//   Copyright (C) 2024 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EKHF451ELL330MJ30S_20deg-C 1 2

C1 4 2 4.51e-07
C2 5 2 2.91e-05
C3 6 2 2.00e+03
C4 7 2 2.07e-01
R1 3 4 7.26e-01
R2 4 5 1.04e+00
R3 5 6 2.20e+03
R4 6 7 5.72e+09
L1 1 3 8.00e-09

.ENDS

.SUBCKT EKHF451ELL330MJ30S_-40deg-C 1 2

C1 4 2 3.88e-08
C2 5 2 1.22e-07
C3 6 2 2.70e-05
C4 7 2 5.67e-02
R1 3 4 6.12e+00
R2 4 5 1.00e+02
R3 5 6 1.80e+02
R4 6 7 9.64e+03
L1 1 3 8.00e-09

.ENDS

.SUBCKT EKHF451ELL330MJ30S_105deg-C 1 2

C1 4 2 3.12e-05
C2 5 2 1.99e-06
C3 6 2 4.96e-08
C4 7 2 1.09e-06
R1 3 4 1.15e-01
R2 4 5 3.29e+02
R3 5 6 3.45e+01
R4 6 7 1.01e+04
L1 1 3 8.00e-09

.ENDS

*$
