*$
*//-----------------------------------------------------------------------//
*//   Part No.	: EKHF451ELL221MM45S
*//   Date		: 2024/03/12
*//   Version	: 1.0
*//   Comment 	: 
*//   Simulator	: P-Spice
*//   Temperature 	: 20deg-C/-40deg-C/105deg-C
*//   Model       	: RC-ladder 9 Elements Model
*//   Copyright (C) 2024 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EKHF451ELL221MM45S_20deg-C 1 2

C1 4 2 2.31e-06
C2 5 2 4.62e-05
C3 6 2 1.32e-04
C4 7 2 1.02e+02
R1 3 4 1.32e-01
R2 4 5 1.38e-01
R3 5 6 2.31e-02
R4 6 7 3.32e+03
L1 1 3 8.00e-09

.ENDS

.SUBCKT EKHF451ELL221MM45S_-40deg-C 1 2

C1 4 2 2.32e-07
C2 5 2 5.00e-07
C3 6 2 1.25e-04
C4 7 2 5.68e-05
R1 3 4 3.88e-01
R2 4 5 1.00e+01
R3 5 6 3.50e+01
R4 6 7 3.86e+01
L1 1 3 8.00e-09

.ENDS

.SUBCKT EKHF451ELL221MM45S_105deg-C 1 2

C1 4 2 1.78e-04
C2 5 2 7.89e-06
C3 6 2 1.00e-07
C4 7 2 9.91e-07
R1 3 4 2.69e-02
R2 4 5 1.00e+02
R3 5 6 1.00e-05
R4 6 7 2.28e+03
L1 1 3 8.00e-09

.ENDS

*$
