*$
*//-----------------------------------------------------------------------//
*//   Part No.	: EKHF451ELL151MMN3S
*//   Date		: 2024/03/20
*//   Version    	: 1.0
*//   Comment 	: 
*//   Simulator   	: P-Spice
*//   Temperature 	: 20deg-C/-40deg-C/105deg-C
*//   Model       	: RC-ladder 9 Elements Model
*//   Copyright (C) 2024 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EKHF451ELL151MMN3S_20deg-C 1 2

C1 4 2 1.38e-07
C2 5 2 1.44e-06
C3 6 2 5.48e-05
C4 7 2 7.24e-05
R1 3 4 1.85e-01
R2 4 5 9.20e-02
R3 5 6 2.22e-01
R4 6 7 3.96e-03
L1 1 3 8.00e-09

.ENDS

.SUBCKT EKHF451ELL151MMN3S_-40deg-C 1 2

C1 4 2 1.33e-07
C2 5 2 5.00e-07
C3 6 2 1.39e-04
C4 7 2 4.68e-07
R1 3 4 2.71e-01
R2 4 5 6.93e+00
R3 5 6 5.14e+01
R4 6 7 9.51e+01
L1 1 3 8.00e-09

.ENDS

.SUBCKT EKHF451ELL151MMN3S_105deg-C 1 2

C1 4 2 1.00e-04
C2 5 2 3.41e-05
C3 6 2 5.93e-06
C4 7 2 2.00e-05
R1 3 4 4.36e-02
R2 4 5 3.41e-02
R3 5 6 7.13e+01
R4 6 7 1.96e+03
L1 1 3 8.00e-09

.ENDS

*$
