*$
*//-----------------------------------------------------------------------//
*//   Part        : EKMQ101ELL470MHB5D
*//   Date        : 2023/04/03
*//   Temperature : 20deg.C/-40deg.C/-25deg.C/105deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2023 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EKMQ101ELL470MHB5D_20deg-C 1 2

C1 4 2 1.40e-06
C2 5 2 2.37e-05
C3 6 2 1.77e-05
R1 3 4 4.73e-01
R2 4 5 2.57e-01
R3 5 6 9.10e-03
L1 1 3 8.00e-09

.ENDS

.SUBCKT EKMQ101ELL470MHB5D_-40deg-C 1 2

C1 4 2 6.51e-08
C2 5 2 1.05e-05
C3 6 2 2.93e-05
R1 3 4 4.41e+00
R2 4 5 7.51e+00
R3 5 6 3.59e+00
L1 1 3 8.00e-09

.ENDS

.SUBCKT EKMQ101ELL470MHB5D_-25deg-C 1 2

C1 4 2 2.28e-06
C2 5 2 2.09e-05
C3 6 2 1.71e-05
R1 3 4 3.53e+00
R2 4 5 1.36e+00
R3 5 6 7.66e-03
L1 1 3 8.00e-09

.ENDS

.SUBCKT EKMQ101ELL470MHB5D_105deg-C 1 2

C1 4 2 1.46e-05
C2 5 2 3.09e-05
C3 6 2 2.28e-06
R1 3 4 1.19e-01
R2 4 5 5.75e-02
R3 5 6 1.73e+02
L1 1 3 8.00e-09

.ENDS
*$