*$
*//-----------------------------------------------------------------------//
*//   Part        : EKMQ500ELL471MJ20S
*//   Date        : 2022/03/28
*//   Temperature : 20deg.C/-55deg.C/105deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2022 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EKMQ500ELL471MJ20S_20deg-C 1 2

C1 4 2 7.76e-06
C2 5 2 2.10e-04
C3 6 2 2.18e-04
R1 3 4 5.59e-02
R2 4 5 3.26e-02
R3 5 6 7.83e-02
L1 1 3 2.00e-09

.ENDS

.SUBCKT EKMQ500ELL471MJ20S_-55deg-C 1 2

C1 4 2 1.44e-06
C2 5 2 7.88e-05
C3 6 2 2.97e-04
R1 3 4 1.28e+00
R2 4 5 5.69e-01
R3 5 6 3.98e-01
L1 1 3 2.00e-09

.ENDS

.SUBCKT EKMQ500ELL471MJ20S_105deg-C 1 2

C1 4 2 5.34e-06
C2 5 2 3.75e-04
C3 6 2 7.60e-05
R1 3 4 3.65e-03
R2 4 5 2.67e-02
R3 5 6 1.14e-01
L1 1 3 2.00e-09

.ENDS
*$