*$
*//-----------------------------------------------------------------------//
*//   Part        : EKMQ451ELL101MM40S
*//   Date        : 2023/03/20
*//   Temperature : 20deg.C/-25deg.C/105deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2023 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EKMQ451ELL101MM40S_20deg-C 1 2

C1 4 2 1.12e-06
C2 5 2 6.29e-05
C3 6 2 2.81e-05
R1 3 4 2.85e-01
R2 4 5 3.18e-01
R3 5 6 5.48e-01
L1 1 3 8.00e-09

.ENDS

.SUBCKT EKMQ451ELL101MM40S_-25deg-C 1 2

C1 4 2 1.73e-07
C2 5 2 5.41e-06
C3 6 2 7.84e-05
R1 3 4 6.53e-01
R2 4 5 1.24e+01
R3 5 6 5.20e+00
L1 1 3 8.00e-09

.ENDS

.SUBCKT EKMQ451ELL101MM40S_105deg-C 1 2

C1 4 2 9.50e-05
C2 5 2 2.48e-06
C3 6 2 3.76e-06
R1 3 4 5.46e-02
R2 4 5 5.58e+00
R3 5 6 8.02e+01
L1 1 3 8.00e-09

.ENDS
*$